* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 19.9
R1 n1 a 3
R2 a nc 5
V2 nc nd DC 27.2
R3 nd ne 5
V3 b ne DC 17.7
V4 nf b DC 13.7
R4 nf 0 1
.op
.print dc V(a) V(b)
.end